US03953415
A solution of 8.0 g. (8.8 mmoles) of Z-28-32-OtBu in 160 ml. of methanol is hydrogenated in the presence of 1 g. of palladium-on-carbon. When the reaction terminates, the catalyst is filtered off, the filtrate is evaporated to dryness, and the residue is triturated with ether and petroleum ether. 6.4 g. (94 %) of H-28-32-OtBu are obtained. M.p.: 138-139°C; Rf12 = 0.1; [α]D = -9.7° (c = 1, in ethanol).

reactant | Z-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser-Ala-OtBu | 8.8 mmoles | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C44H69N5O15
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | H-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser-Ala-OtBu | 94 % | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)OC(C)(C)C | C36H63N5O13
